US08623907B2
To a solution of 3-bromo-4′-chloro-4-methylbiphenyl (12.6 g, 44.7 mmol) and (1,1-dimethylprop-2-ynyloxy)acetic acid methyl ester (prepared according to WO2001/066544) (8.4 g, 53.8 mmol) in triethylamine (70 ml) is added bis(triphenylphosphine)palladium(II) dichloride (0.63 g, 0.9 mmol) and copper(I) iodide (0.34 g, 1.8 mmol). The reaction mixture is degassed and flushed with nitrogen (×3), then stirred under nitrogen at 80° C. for one hour. The cooled mixture is filtered through diatomaceous earth to remove the catalyst, and the filtrate evaporated in vacuo. The residue is resubjected to the same reaction conditions (8.4 g 1,1-dimethylprop-2-ynyloxy)acetic acid methyl ester, 0.63 g bis(triphenylphosphine)-palladium(II) dichloride, 0.34 g copper(I) iodide in 70 ml triethylamine under nitrogen) and stirred at 80° C. for one hour. The cooled mixture is filtered through diatomaceous earth, then concentrated in vacuo and purified by flash chromatography (hexane/ethyl acetate 3:1) to afford [3-(4′-chloro-4-methylbiphenyl-3-yl)-1,1-dimethylprop-2-ynyloxy]acetic acid methyl ester (6.70 g,) as an oil.

reactant | 3-bromo-4′-chloro-4-methylbiphenyl | 44.7 mmol, 12.6 g | BrC=1C=C(C=CC1C)C1=CC=C(C=C1)Cl | C13H10BrCl
reactant | (1,1-dimethylprop-2-ynyloxy)acetic acid methyl ester | 53.8 mmol, 8.4 g | COC(COC(C#C)(C)C)=O | C8H12O3
solvent | triethylamine | 70 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.9 mmol, 0.63 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 1.8 mmol, 0.34 g | [Cu]I
product | [3-(4′-chloro-4-methylbiphenyl-3-yl)-1,1-dimethylprop-2-ynyloxy]acetic acid methyl ester | 6.70 g | COC(COC(C#CC=1C=C(C=CC1C)C1=CC=C(C=C1)Cl)(C)C)=O | C21H21ClO3
